US04472586
Step A: 2-(o-Aminophenylthio)-4-nitrobenzoic acid
Heat a mixture of 466 g (3.72 moles) of 2-aminothiophenol, 250 g (1.24 moles) of 2-chloro-4-nitrobenzoic acid, 1.25 l of quinoline, 192 g (1.34 moles) of cuprous oxide and 125 ml of pyridine in an oil bath at 160°-170° C. with mechanical stirring for 90 minutes. Cool the mixture to room temperature and add 1.87 l of concentrated hydrochloric acid followed by 625 ml of water. Separate the precipitate and wash well with water. Extract the washed precipitate into boiling methanol and filter. Treat the hot filtrate with charcoal, filter and strip to dryness. Dissolve the residue in aqueous sodium hydroxide, filter and treat with charcoal. Acidify the filtrate and separate the precipitate. (Yield: 38 g).

reactant | 2-aminothiophenol | 3.72 moles, 466 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-chloro-4-nitrobenzoic acid | 1.24 moles, 250 g | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | quinoline | 1.25 l | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloric acid | 1.87 l | Cl | ClH
solvent | water | 625 ml | O | H2O
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | 2-(o-Aminophenylthio)-4-nitrobenzoic acid | NC1=C(C=CC=C1)SC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C13H10N2O4S
